US04684658
A solution of 3-methoxyaniline (3.1 g) and of triethylamine (5.1 g) in methylene chloride (50 cc) is added over 15 minutes at a temperature of between 21° and 28° C. to a suspension of 7-chloroformyl-5-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole hydrochloride (7.5 g) in methylene chloride (125 cc). The solution obtained is stirred at a temperature of about 20° C. for 16 hours. A product precipitates out. The crystals which have appeared are separated off by filtration, washed 3 times with methylene chloride (300 cc in total) and 3 times with distilled water (300 cc in total) and then dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 20° C. in the presence of potassium hydroxide pellets. A crude product (5.1 g) melting at 220° C. is thus obtained. This product is dissolved in boiling 1-butanol (160 cc). The cloudy solution obtained is treated with decolourising charcoal (0.5 g) and filtered hot. The filtrate is cooled at a temperature of about 4° C. for 16 hours. The crystals which have appeared are separated off by filtration, washed twice with 1-butanol (30 cc in total) 3 times with ethanol (75 cc in total) and 3 times with diethyl ether (75 cc in total) and then dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 20° C. in the presence of potassium hydroxide pellets. N-(3-Methoxyphenyl)-5-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxamide (3.9 g) is thus obtained in the form of pale yellow crystals melting at 224° C.

reactant | 3-methoxyaniline | 3.1 g | COC=1C=C(N)C=CC1 | C7H9NO
reactant | triethylamine | 5.1 g | C(C)N(CC)CC | C6H15N
reactant | 7-chloroformyl-5-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole hydrochloride | 7.5 g | Cl.ClC(=O)C=1C=C(N2CSCC21)C=2C=NC=CC2
reactant | charcoal | 0.5 g | C | CH4
solvent | methylene chloride | 50 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 125 cc | C(Cl)Cl | CH2Cl2
solvent | 1-butanol | 160 cc | C(CCC)O | C4H10O
product | N-(3-Methoxyphenyl)-5-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxamide | 3.9 g | COC=1C=C(C=CC1)NC(=O)C=1C=C(N2CSCC21)C=2C=NC=CC2 | C19H17N3O2S
